US09284333B2
2-Methyl-morpholine-3-carboxylic acid (Comp. No. 28)
To a solution of 2-methyl-morpholine-3-carboxylic acid ethyl ester (Comp. No. 27) (0.180 g, 1.039 mmol) in methanol (4 ml) was added water (2 ml) and potassium hydroxide (0.291 g, 5.195 mmol). The resulting mixture was heated to 75° C. until the color turned to red. The mixture was allowed to cool to room temperature, diluted with water and acidified to pH=1 with aqueous hydrochloric acid (2 M). The solution was washed with a mixture of dichloromethane and isopropanol (3:1) and freeze-dried. The resulting white solid was used in the next step without further purification. LC/MS (method 7): Rt=0.11 min; m/z=146.20 (M+H+).

reactant | 2-methyl-morpholine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1NCCOC1C | C8H15NO3
reactant | potassium hydroxide | 5.195 mmol, 0.291 g | [OH-].[K+]
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
solvent | water | O | H2O
solvent | water | 2 ml | O | H2O
product | 2-Methyl-morpholine-3-carboxylic acid | CC1C(NCCO1)C(=O)O | C6H11NO3
